US08013156B2
4-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (6.9 g, 18.3 mmol) was dissolved in 4M HCl in dioxane (200 mL) and stirred at room temperature for 2 h. The resulting suspension was diluted with EtOAc and the solids filtered, washed with EtOAc, and dried under high vacuum to give 6.15 g (96%) of 1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine, dihydrochloride salt. 1H NMR (D2O) 8.59 (d, 2H), 7.92 (d, 2H), 5.66 (s, 2H), 3.66 (m, 4H), 3.26 (m, 4H) ppm. LC-MS (MH+)=278.

reactant | 4-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 18.3 mmol, 6.9 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NSN=C1OCC1=CC=NC=C1 | C17H23N5O3S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine, dihydrochloride salt | 6.15 g, 96% | Cl.Cl.N1=CC=C(C=C1)COC=1C(=NSN1)N1CCNCC1 | InChI=1S/C12H15N5OS.2ClH/c1-3-13-4-2-10(1)9-18-12-11(15-19-16-12)17-7-5-14-6-8-17;;/h1-4,14H,5-9H2;2*1H
